US07691877B2
(3-amino-2-benzylamino-6-trifluormethyl-pyridin-4-yl )-carbamic acid ethyl ester
(2-benzylamino-3-nitro-6-trifluormethyl-pyridin-4-yl)-carbamic acid ethyl ester (95 mg, 0.25 mmol) was dissolved in 10 mL of ethanol and Raney Nickel (20 mg, 20% MW) was added then the reaction mixture was stirred at room temperature in a bomb under 50 PSI of hydrogen for 2 h. The mixture was filtered through arbocel and the filtrate was concentrated in vacuo to give 88 mg of the title compound as a pale green gum.

reactant | (2-benzylamino-3-nitro-6-trifluormethyl-pyridin-4-yl)-carbamic acid ethyl ester | 0.25 mmol, 95 mg | C(C)OC(NC1=C(C(=NC(=C1)C(F)(F)F)NCC1=CC=CC=C1)[N+](=O)[O-])=O | C16H15F3N4O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Raney Nickel | 20 mg | [Ni] | Ni
product | (3-amino-2-benzylamino-6-trifluormethyl-pyridin-4-yl )-carbamic acid ethyl ester | 88 mg | C(C)OC(NC1=C(C(=NC(=C1)C(F)(F)F)NCC1=CC=CC=C1)N)=O | C16H17F3N4O2
